US05565479
2-(4-Imidazolylmethyl)-8-nitro-4,5-dihydronaphtho[1,2 -d]thiazole
Starting compounds: 2-bromo-7-nitro-1-tetralone, 4-imidazolylthioacetamide hydrochloride

reactant | 2-bromo-7-nitro-1-tetralone | BrC1C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O | C10H8BrNO3
reactant | 4-imidazolylthioacetamide hydrochloride | Cl.N1C=NC(=C1)CC(=S)N
product | 2-(4-Imidazolylmethyl)-8-nitro-4,5-dihydronaphtho[1,2 -d]thiazole | N1C=NC(=C1)CC=1SC2=C(N1)C1=CC(=CC=C1CC2)[N+](=O)[O-] | C15H12N4O2S
